US05599770
(1) Synthesis of an intermediate, 4-ethoxy-6-methyl-2-(methylthio)pyrimidine (Compound IV-44)
To sodium hydride (2.75 g (60% in mineral oil), 0.046×1.5 mmol) dissolved in ethanol (20 ml), 4-chloro-6-methyl-2-methylmercaptopyrimidine (Compound IV-7) (8.0 g, 0.046 mmol) was added and the solution was stirred for about 1 hour at room temperature.

reactant | sodium hydride | 1.5 mmol, 2.75 g | [H-].[Na+]
reactant | 4-chloro-6-methyl-2-methylmercaptopyrimidine | 0.046 mmol, 8.0 g | ClC1=NC(=NC(=C1)C)SC | C6H7ClN2S
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 4-ethoxy-6-methyl-2-(methylthio)pyrimidine | C(C)OC1=NC(=NC(=C1)C)SC | C8H12N2OS
